US08957064B2
4-(3-bromo-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde
1.5 g 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde and 0.9 g NBS were refluxed in 30 mL chloroform for 1 h. The solvent was removed by distillation and the crude product was purified by column chromatography (dichloromethane/methanol).

reactant | 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 1.5 g | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | NBS | 0.9 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-bromo-6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | BrC1=CN=C2N1C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C19H12BrN3O
